US07846944B2
Step 2: 5-Bromo-1-isopropyl-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one
At RT, to a solution of 5-bromo-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one acetic acid adduct (202 mg, 0.701 mmol) in THF (10 mL) was treated with potassium carbonate (290 mg, 2.10 mmol) and 2-iodopropane (0.50 mL, 5.0 mmol). It was heated to reflux for 48 h. The reaction mixture was then treated with water and extracted 2×20 mL EtOAc, dried over MgSO4, filtered and concentrated in vacuo (rotovap). The crude residue was purified on the ISCO (12 g column, 25-90% EtOAc:Hexanes) affording the title compound (88 mg) as a white amorphous solid in >95% purity. MS (ESI, pos.ion) m/z: 270.0/272.0 (M+1).

reactant | 5-bromo-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one acetic acid | 0.701 mmol, 202 mg | C(C)(=O)O.BrC1=CC2=C(N(C1=O)C)NN=C2
reactant | potassium carbonate | 2.10 mmol, 290 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 5.0 mmol, 0.50 mL | IC(C)C | C3H7I
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-Bromo-1-isopropyl-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 88 mg | BrC1=CC2=C(N(C1=O)C)N(N=C2)C(C)C | C10H12BrN3O
